US06855722B2
a) Methyl 3-{5-[3-(benzyloxycarbonylamino)propoxy]indolyl}propanoate
1,1′-(Azodicarbonyl)dipiperidine (370 mg, 1.5 mmol) was added to the solution of methyl 3-(5-hydroxyindolyl)propanoate (220 mg, 1.0 mmol), as prepared in step g of Example 5, 3-(benzyloxycarbonylamino)propanol (230 mg, 1.1 mmol) and tri-n-butylphosphine (305 mg, 1.5 mmol) in tetrahydrofuran (20 mL). After stirring at ambient temperature overnight, the reaction mixture was concentrated and the residue was purified by flash column chromatography on silica gel (0-2% ethyl acetate in methylene chloride) to give the title compound as an off white solid (310 mg, 76%). 1H-NMR (400 MHz, CDCl3) δ 7.35 (m, 5H), 7.22 (d, J=8.9 Hz, 1H), 7.09 (d, J=3.1 Hz, 1H), 7.07 (d, J=2.1 Hz, 1H), 6.86 (dd, J=8.8, 2.4 Hz, 1H), 6.38 (d, J=2.9 Hz, 1H), 5.11 (br s, 3H), 4.41 (t, J=6.8 Hz, 2H), 4.07 (t, J=5.9 Hz, 2H), 3.66 (s, 3H), 3.44 (q, J=6.3 Hz, 2H), 2.81 (t, J=6.8 Hz, 2H), 2.02 (m, 2H).

reactant | 1,1′-(Azodicarbonyl)dipiperidine | 1.5 mmol, 370 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | methyl 3-(5-hydroxyindolyl)propanoate | 1.0 mmol, 220 mg | OC=1C=C2C=C(NC2=CC1)CCC(=O)OC | C12H13NO3
reactant | 3-(benzyloxycarbonylamino)propanol | 1.1 mmol, 230 mg | C(C1=CC=CC=C1)OC(=O)NCCCO | C11H15NO3
reactant | tri-n-butylphosphine | 1.5 mmol, 305 mg | C(CCC)P(CCCC)CCCC | C12H27P
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | Methyl 3-{5-[3-(benzyloxycarbonylamino)propoxy]indolyl}propanoate | C(C1=CC=CC=C1)OC(=O)NCCCOC=1C=C2C=C(NC2=CC1)CCC(=O)OC | C23H26N2O5
